US07439393B2
i) N-[3-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]-N′-(3-iodophenyl)urea
3-Iodophenylisocyanate (500 mg) was added to a solution of (5R)-3-{6-[2-{[(3-aminophenyl)methyl]oxy}ethoxy]hexyl}-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (700 mg) in dichloromethane (14 ml) and the mixture was stirred at 20° under nitrogen for 5 h. Isopropanol (14 ml) was added and the mixture was stirred for 16 h. The solvent was evaporated in vacuo to give a residue that was purified by Biotage. Elution with EtOAc-PE (2:1) gave the title compound (800 mg). LCMS RT=4.02 min, ES+ve 744 (MH)+.

reactant | 3-Iodophenylisocyanate | 500 mg | IC=1C=C(C=CC1)N=C=O | C7H4INO
reactant | (5R)-3-{6-[2-{[(3-aminophenyl)methyl]oxy}ethoxy]hexyl}-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 700 mg | NC=1C=C(C=CC1)COCCOCCCCCCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C28H38N2O6
reactant | Isopropanol | 14 ml | C(C)(C)O | C3H8O
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
product | N-[3-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]-N′-(3-iodophenyl)urea | 800 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC=2C=C(C=CC2)NC(=O)NC2=CC(=CC=C2)I)C | C35H42IN3O7
